US07348323B2
Step 3: 5-(4-Cyclopentyl-piperazin-1-yl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester
(Z)-3-[2-(4-Cyclopentyl-piperazin-1-yl)-5-nitro-pyridin-4-yl]-2-hydroxy-acrylic acid ethyl ester was reacted with 0.47 g iron powder in 40 mL acetic acid for 6 h at 80° C. After evaporation of all volatiles the residue was taken up in water and extracted with DCM. The combined organic layers were dried with MgSO4 and evaporated to dryness. Purification on silica eluting with a gradient mixture of n-heptan/ethyl acetate/0.1% NEt3 yielded after evaporation of the product fractions 0.65 g (23% from 2-chloro-4-methyl-5-nitropyridine) of the title compound as light brown solid.

reactant | (Z)-3-[2-(4-Cyclopentyl-piperazin-1-yl)-5-nitro-pyridin-4-yl]-2-hydroxy-acrylic acid ethyl ester | C(C)OC(/C(=C/C1=CC(=NC=C1[N+](=O)[O-])N1CCN(CC1)C1CCCC1)/O)=O | C19H26N4O5
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 0.47 g | [Fe] | Fe
product | 5-(4-Cyclopentyl-piperazin-1-yl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC=2C(=CN=C(C2)N2CCN(CC2)C2CCCC2)N1 | C19H26N4O2
